US08071593B2
Preparation of {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}-methanol
200 ml of a 1 M solution of diisobutylaluminium hydride in THF are added dropwise with stirring to a solution, kept under nitrogen, of 12.6 g (40.0 mmol) of methyl 3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzoate in 200 ml of THF. After the mixture has been stirred at room temperature for 1 hour, 10 ml of a saturated aqueous sodium sulfate solution are added dropwise. The resultant precipitate is filtered off with suction and washed with dichloromethane. The filtrate is dried over sodium sulfate and evaporated. The residue is taken up in a mixture of diethyl ether and petroleum ether. The resultant precipitate is filtered off with suction, washed with petroleum ether and dried in vacuo: {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}methanol as colourless crystals; m.p. 95-97° C.; ESI 288 (M+H); HPLC: Rt=2.35 min (method B).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzoate | 40.0 mmol, 12.6 g | CN(CCCOC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1)C | C17H21N3O3
reactant | sodium sulfate | 10 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}-methanol | CN(CCCOC=1C=NC(=NC1)C=1C=C(C=CC1)CO)C | C16H21N3O2
